US04259337
5 g of 3-(m-trifluoromethylphenyl)-piperidine hydrochloride were dissolved in water and the solution was cooled on an ice bath and was made alkaline with sodium hydroxide. The mixture was extracted with ether and the ether were washed with water, dried over magnesium sulfate and evaporated to dryness under reduced pressure to obtain 4.6 g of 3-(m-trifluoromethylphenyl)-piperidine.

reactant | 3-(m-trifluoromethylphenyl)-piperidine hydrochloride | 5 g | Cl.FC(C=1C=C(C=CC1)C1CNCCC1)(F)F
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 3-(m-trifluoromethylphenyl)-piperidine | 4.6 g | FC(C=1C=C(C=CC1)C1CNCCC1)(F)F | C12H14F3N
